US06815447B2
2-(3-Fluorophenyl)-4,6-quinolinediamine
6-Nitro-4-azido-2-(3-fluorophenyl)-quinoline was placed in a 500 mL three neck flask equipped with a condenser, magnetic stirrer, nitrogen inlet gas outlet and a silicone oil heating bath and suspended in 250 mL of ethyl acetate and 50 mL of ethanol. The mixture was stirred, heated to reflux, 20 g (89 mmoles, 6 equiv.) of stannous chloride dihydrate cautiously added portionwise over 40 min, and the mixture was heated for an additional 2 hr. At the end of this time, the mixture was cooled and poured into 500 mL of water. The pH was cautiously adjusted to 9.0 and the solution filtered. Solids were washed with 100 mL of ethyl acetate, the filtrates combined and the aqueous layer twice extracted with 200 mL of ethyl acetate. The organic layers were combined dried over Na2SO4, filtered and concentrated. The product was chromatographed on a silica gel column, using 10% methanol in ethyl acetate as eluent, and was then recrystallized from methylene chloride and hexane to give 3.6 g (88%) of the title compound.

reactant | 6-Nitro-4-azido-2-(3-fluorophenyl)-quinoline | [N+](=O)([O-])C=1C=C2C(=CC(=NC2=CC1)C1=CC(=CC=C1)F)N=[N+]=[N-] | C15H8FN5O2
reactant | water | 500 mL | O | H2O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-(3-Fluorophenyl)-4,6-quinolinediamine | 3.6 g, 88% | FC=1C=C(C=CC1)C1=NC2=CC=C(C=C2C(=C1)N)N | C15H12FN3
